US06503905B1
To a solution of (4-bromo-phenyl)-(3-methoxy-phenyl)-methanone (2.06 g, 7.07 mmol), in CH2Cl2 (3.5 mL) at room temperature was added Znl2 (0.15 , 0.47 mmol) followed by addition of TMSCN (4.29 mL, 32.2 mmol). The reaction mixture was stirred at room temperature for 3 h and was quenched by addition of brine (20 mL). The aqueous layer was washed with CH2Cl2 (3×30 mL) and the combined organic extracts were dried over Na2SO4 and concentrated to afford an oil. The resulting oil was dissolved in THF (7 mL) and the solution was added dropwise to a solution of lithium aluminum hydride (LAH) in THF (1M, 8.13 mL) at 0° C. The mixture was stirred at 0° C. for 1 h and at room temperature for 1 h. To the solution was added H2O (1.5 mL) followed by addition of 15% aqueous sodium hydroxide (NaOH) (1.5 mL) and H2O (4.5 mL). The mixture was filtered trough celite and the celite was washed with EtOAc (20 mL). The filtrate was dried over MgSO4 vand concentrated. Purification by flash chromatography with CH2Cl2/MeOH (20:1) afforded 2.1 g of 2-amino-1-(4-bromo-phenyl)-1-(3-methoxy-phenyl)-ethanol. 1HNMR (400 MHz, CDCl3) δ 7.44-7.40 (comp, 2H), 7.33-7.26 (comp, 2H), 7.24-7.20 (m, 1H), 7.01-6.99 (m, 1H), 6.97-6.94 (m, 1H), 3.77 (s, 3H), 3.47-3-35 (comp, 2H), 3.29-3.24 (comp, 2H); MS (M+1) 304.1, 306.1.

reactant | (4-bromo-phenyl)-(3-methoxy-phenyl)-methanone | 7.07 mmol, 2.06 g | BrC1=CC=C(C=C1)C(=O)C1=CC(=CC=C1)OC | C14H11BrO2
reactant | TMSCN | 32.2 mmol, 4.29 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1.5 mL | [OH-].[Na+]
solvent | CH2Cl2 | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 8.13 mL | C1CCOC1 | C4H8O
solvent | H2O | 4.5 mL | O | H2O
solvent | H2O | 1.5 mL | O | H2O
product | 2-amino-1-(4-bromo-phenyl)-1-(3-methoxy-phenyl)-ethanol | 2.1 g | NCC(O)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)Br | C15H16BrNO2
